US08349833B2
8-(2-Chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid ethyl ester (0.11 g, 0.25 mmol) was added to a mixture of ethanol (15 mL), water (1.35 mL), and sodium hydroxide (0.07 g, 1.75 mmol). The mixture was heated to reflux (95-98° C. oil bath) for 11 hours. After cooling to room temperature, the solvent was evaporated under reduced pressure. Water (10 mL) was added to the residue and adjusted to pH=6 with 10 N hydrochloric acid. The product was extracted with dichloromethane (3×10 mL). The combined organic layers were washed with water (10 mL), brine (10 mL), dried over Na2SO4. After filtration, the dichloromethane solution was concentrated under reduced pressure to obtain crude product. The crude product was purified by column chromatography (silica gel, ethyl acetate/heptane=3/7) to afford 8-(2-chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid (Compound Iq, 0.06 g, 59.8% yield) as a yellow oil. 1NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 7.60 (d, 1H, J=7.5 Hz), 7.48 (d, 1H, J=7.8 Hz), 7.41-7.30 (m, 2H), 6.58 (d, 1H, J=2.7 Hz), 5.89 (d, 1H, J=2.7 Hz), 4.56-4.52 (m, 1H), 3.96 (d, 1H, J=13.5 Hz), 3.65 (d, 1H, J=13.5 Hz), 2.97-2.65 (m, 4H), 2.00-1.87 (m, 2H), 1.43-1.39 (m, 2H), 1.28-1.18 (m, 6H), 1.11 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CD3OD/TMS) δ (ppm) 183.09, 136.97, 136.77, 131.03, 130.05, 130.31, 128.80, 124.29, 118.35, 113.24, 105.71, 65.49, 50.79, 49.81, 43.48, 42.01, 33.13, 30.39, 26.74, 26.19, 25.98, 23.34.

reactant | 8-(2-Chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid ethyl ester | 0.25 mmol, 0.11 g | C(C)OC(C(CCCCCC(N1CC2=C(CC1)NC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C25H35ClN2O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1.75 mmol, 0.07 g | [OH-].[Na+]
solvent | water | 1.35 mL | O | H2O
product | 8-(2-chlorophenyl)-2,2 dimethyl-8-(1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-yl)-octanoic acid | 0.06 g, 59.8% yield | ClC1=C(C=CC=C1)C(CCCCCC(C(=O)O)(C)C)N1CC2=C(CC1)NC=C2 | C23H31ClN2O2
